US05661150
[Referential Example 9]3-Chloromethyl-5,6-dimethoxy-1-[1-trityl-4-imidazolyl)methyl-1H-indazole
5,6-Dimethoxy-1(1-trityl-4-imidazolyl)methyl-1H -indazole-3-methanol (180.0 g), which had been ground in a mortar, was suspended in dichloromethane (1700 ml) at room temperature and then cooled with ice/water. Next, thionyl chloride (48.6 ml) was dropped thereinto within 5 minutes. The reaction mixture was poured into a saturated aqueous solution of sodium bicarbonate (2000 ml) and extracted with chloroform (5000 ml). After drying over sodium sulfate, filtering and evaporating under reduced pressure, a colorless solid was obtained (165.1 g). This solid product was used in the subsequent reaction without purification.

reactant | 5,6-Dimethoxy-1(1-trityl-4-imidazolyl)methyl-1H -indazole-3-methanol | 180.0 g | COC=1C=C2C(=NN(C2=CC1OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C33H30N4O3
reactant | thionyl chloride | 48.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 2000 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1700 ml | ClCCl | CH2Cl2
product | 3-Chloromethyl-5,6-dimethoxy-1-[1-trityl-4-imidazolyl)methyl-1H-indazole | ClCC1=NN(C2=CC(=C(C=C12)OC)OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H29ClN4O2
